US07351719B2
Z45d) (E)-N-[4-(3-bromo-propyl)-3-chloro-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide
0.577 g (2.200 mmol) triphenylphosphine was added batchwise to a suspension of 0.836 g (2.000 mmol) (E)-N-[3-chloro-4-(3-hydroxy-propyl)-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide and 0.730 g (2.200 mmol) tetrabromomethane in 10 mL dichloromethane and the mixture was stirred for 48 h at RT. The reaction mixture was purified by column chromatography (silica gel, dichloromethane) and the residue was triturated with petroleum ether.

reactant | triphenylphosphine | 2.200 mmol, 0.577 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-N-[3-chloro-4-(3-hydroxy-propyl)-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide | 2.000 mmol, 0.836 g | ClC=1C=C(C=CC1CCCO)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C19H16Cl2F3NO2
reactant | tetrabromomethane | 2.200 mmol, 0.730 g | BrC(Br)(Br)Br | CBr4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (E)-N-[4-(3-bromo-propyl)-3-chloro-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide | BrCCCC1=C(C=C(C=C1)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)Cl)=O)Cl | C19H15BrCl2F3NO
